US07148234B2
STEP 1. 2-[(4,5-Dimethyl-2-nitroanilino)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 45 from 4,5-dimethyl-2-nitroaniline and 4-bromophenylethyl alcohol.

reactant | 4,5-dimethyl-2-nitroaniline | CC1=CC(=C(N)C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | 4-bromophenylethyl alcohol | BrC1=CC=C(C=C1)CCO | C8H9BrO
product | 2-[(4,5-Dimethyl-2-nitroanilino)phenyl]ethanol | CC1=CC(=C(NC2=C(C=CC=C2)CCO)C=C1C)[N+](=O)[O-] | C16H18N2O3
